US07531547B2
A mixture of 2,5-diiodo-phenol (3.9 g, 11.28 mmol), bromoacetonitrile (2.03 g, 16.91 mmol) and potassium carbonate (3.11 g, 22.55 mmol) in 7 mL acetonitrile was sealed in a stoppered flask and stirred at room temperature for 18 hours. The reaction mixture was poured into water and extracted with EtOAc. The combined organic layers were washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was chomatographed on silica gel (30%-70% CH2Cl2/hexanes) to give 2.78 g of (2,5-Diiodo-phenoxy)-acetonitrile.

reactant | 2,5-diiodo-phenol | 11.28 mmol, 3.9 g | IC1=C(C=C(C=C1)I)O | C6H4I2O
reactant | bromoacetonitrile | 16.91 mmol, 2.03 g | BrCC#N | C2H2BrN
reactant | potassium carbonate | 22.55 mmol, 3.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | (2,5-Diiodo-phenoxy)-acetonitrile | 2.78 g | IC1=C(OCC#N)C=C(C=C1)I | C8H5I2NO
